US04921524
Preparation of 2-[1-(allyloxyimino)-n-butyl]-3-benzoyloxy-4-(4-methoxyphenyl)-cyclohex-2-en-1-one
Aqueous 1% sodium hydroxide (14 ml) was added to a stirred solution of 2-[1-(allyloxyimino)-n-butyl]-3-hydroxy-4-(4-methoxyphenyl)-cyclohex-2-en-1-one (1.2 g) in acetone (150 ml). The mixture was stirred at ambient temperature for 5 minutes and then benzoyl choloride (0.5 g) was added dropwise. After 30 minutes, the mixture was evaporated in vacuo and the residue purified on a silica gel column using 10% v/v diethyl ether- methylene chloride as eluant to give the title compound (1 g) as a colourless oil.

reactant | sodium hydroxide | 14 ml | [OH-].[Na+]
reactant | 2-[1-(allyloxyimino)-n-butyl]-3-hydroxy-4-(4-methoxyphenyl)-cyclohex-2-en-1-one | 1.2 g | C(C=C)ON=C(CCC)C=1C(CCC(C1O)C1=CC=C(C=C1)OC)=O | C20H25NO4
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 2-[1-(allyloxyimino)-n-butyl]-3-benzoyloxy-4-(4-methoxyphenyl)-cyclohex-2-en-1-one | 1 g | C(C=C)ON=C(CCC)C=1C(CCC(C1OC(C1=CC=CC=C1)=O)C1=CC=C(C=C1)OC)=O | C27H29NO5
